US04394070
Preparation of the intermediate (+)-4-(2-methylbutyl)-nitrobenzene
(+)-2-Methylbutylbenzene, prepared according to the procedure of Example 2, (0.75 mol, 111.0 gm) was added to 200 ml glacial acetic acid. This solution was added dropwise to a mixture of 420 ml 90% fuming nitric acid and 180 ml glacial acetic acid, which had been cooled at -20° C. Maintaining that temperature, the mixture was stirred for one hour and then poured into 2.5 l of ice water. The reaction products were extracted with 2-500 ml portions of petroleum ether (30°-60° C.) and the combined extracts were successively washed with water (2-100 ml portions); 5% sodium hydroxide (2-100 ml portions), 10% sodium hydroxide (2-100 ml portions); and water (3-100 ml portions). The extract was dried over anhydrous calcium sulfate, the solvent was removed under reduced pressure and the resultant light yellow oil fractionated under reduced pressure. The fraction boiling at 158°-160° C. (14 mm Hg) was collected, giving a 38% yield of the product. The structure was confirmed by NMR.

reactant | (+)-2-Methylbutylbenzene | CC(CC1=CC=CC=C1)CC | C11H16
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | (+)-4-(2-methylbutyl)-nitrobenzene | 38% yield | CC(CC1=CC=C(C=C1)[N+](=O)[O-])CC | C11H15NO2
